US05624937
1-[4-(2-Benzimidazolylthio)phenyl]-3-(4-chloro-3-trifluoromethylphenyl)thiourea
2-(4--Nitrophenylthio)benzimidazole (5.0 mmoles, 1.37 g) was reduced in ethyl acetate over 1.37 g 5% Pd/C, filtered and condensed and then reacted with 4-chloro-3-trifluoromethylphenylisothiocyanate (5.0 moles, 1.0 g) according to procedure C to yield the title compound 0.12 g, 5% product. Mass Spec (FD) 479. Calculated for C21H14ClF3N4S2 : C, 52.66; H, 2.95; N, 11.70. Found: C, 52.85; H, 3.18; N, 10.47.

reactant | 2-(4--Nitrophenylthio)benzimidazole | 5.0 mmoles, 1.37 g | [N+](=O)([O-])C1=CC=C(C=C1)SC=1NC2=C(N1)C=CC=C2 | C13H9N3O2S
reactant | 4-chloro-3-trifluoromethylphenylisothiocyanate | 5.0 moles, 1.0 g | ClC1=C(C=C(C=C1)N=C=S)C(F)(F)F | C8H3ClF3NS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 1.37 g | [Pd] | Pd
product | 1-[4-(2-Benzimidazolylthio)phenyl]-3-(4-chloro-3-trifluoromethylphenyl)thiourea | 0.12 g, 5% | N1=C(NC2=C1C=CC=C2)SC2=CC=C(C=C2)NC(=S)NC2=CC(=C(C=C2)Cl)C(F)(F)F | C21H14ClF3N4S2
